US07067540B2
Preparation of 3-acetyl-1-(2,6-dichlorophenyl)-4-hydroxy-6-methylpyridin-2(1H)-one
A mixture of 2,6 dichlorophenylisocyanate (4.8 g, 0.025 mol), and diketene (4.3 g, 0.05 mol) in toluene (15.0 mL) was heated to reflux for 4 h under an atmosphere of argon. After removal of the solvent in vacuo, the residue was purified by silica gel flash chromatography using EtOAc/hexanes (1:3 v/v). The appropriate fractions, as monitored by ES mass spectrometry (MH+m/z=312) were combined and concentrated under reduced pressure. The resulting yellow solid (2.3 g) was further purified by reverse-phase HPLC using 10-90% acetonitrile/water gradient (45 min) at a flow rate of 100 mL/min. The appropriate fractions, as monitored by ES mass spectrometry (MH+ m/z=312) were combined and concentrated to half the volume. The solid that separated was extracted with EtOAc (2×25 mL). The combined extracts were washed with water, dried (Na2SO4), filtered, and concentrated to dryness to give the title compound (0.77 g) as a pale yellow powder: 1H-NMR (CD3OD) δ: 7.62 (m, 2H), 7.52 (m, 1H), 6.19 (s, 1H), 2.59 (s, 3H), and 1.96 (s, 3H); ES-MS m/z=312 (MH+); HR-MS, m/z calc C14H12NO3Cl2 312.0189, found 312.0214.

reactant | 2,6 dichlorophenylisocyanate | 0.025 mol, 4.8 g | ClC1=C(C(=CC=C1)Cl)N=C=O | C7H3Cl2NO
reactant | diketene | 0.05 mol, 4.3 g | C=C1CC(=O)O1 | C4H4O2
reactant | toluene | 15.0 mL | C1(=CC=CC=C1)C | C7H8
product | 3-acetyl-1-(2,6-dichlorophenyl)-4-hydroxy-6-methylpyridin-2(1H)-one | 0.77 g | C(C)(=O)C=1C(N(C(=CC1O)C)C1=C(C=CC=C1Cl)Cl)=O | C14H11Cl2NO3
